US07579368B2
Hydrochloric acid (1.8 mL, 7.4 mmol, 4 M in 1,4-dioxane) was added to a solution of 4-tert-butyloxycarbonyl-1-(2-hydroxyethyl)-piperazin-2-one (0.45 g, 1.8 mmol) in 1,4-dioxane (5.0 mL). The mixture was stirred overnight and concentrated to give 1-(2-hydroxyethyl)-piperazin-2-one hydrochloride as an off-white solid (0.30 g, 91%).

reactant | Hydrochloric acid | 7.4 mmol, 4 M, 1.8 mL | Cl | ClH
reactant | 4-tert-butyloxycarbonyl-1-(2-hydroxyethyl)-piperazin-2-one | 1.8 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCO)=O | C11H20N2O4
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 1-(2-hydroxyethyl)-piperazin-2-one hydrochloride | 0.30 g, 91% | Cl.OCCN1C(CNCC1)=O | InChI=1S/C6H12N2O2.ClH/c9-4-3-8-2-1-7-5-6(8)10;/h7,9H,1-5H2;1H
